US06861424B2
To a mixture of 2,4-dicarboxyquinoline (1.085 g, 5 mmol) in methanol (40 mL) was added chlorotrimethylsilane (TMSCI) (1.41 mL), and the reaction mixture was stirred overnight. The reaction mixture turned into a clear solution. The solvents were evaporated to yield a crude product, 2-carboxy-4-methoxycarbonylquinoline. To a solution of 2-carboxy-4-methoxycarbonylquinoline (151 mg, 0.65 mmol) in THF (10 mL) was added 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (181 mg, 1.05 eq.), EDCI (161 mg, 1.2 eq.), and HOBt (75 mg, 1.1 eq.), and the resulting reaction mixture was stirred overnight. The reaction mixture was evaporated in vacuo to afford a crude product, which was dissolved in ethyl acetate, washed with saturated NaHCO3, 1 M NaHSO4 and brine. The organic layer was evaporated. Flash column chromatography with 1%-3% MeOH in CH2Cl2 afforded 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]-aminocarbonyl-4-(methoxycarbonyl)quinoline (146 mg) which was treated with trifluoroacetic acid (TFA) and CH2Cl2 (TFA/CH2Cl2, 1:1, 1.5 mL) and the resulting reaction mixture was stirred at ambient temperture for 1 hour. Evaporation of the solvents gave 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-(methoxycarbonyl)quinoline (74 mg). To this was added a mixture of THF:H2O (2:1, 2 mL) and LiOH (4 eq.). The resulting mixture was stirred at ambient temperature for 1.5 hours. The pH value was adjusted to between pH 3 and pH 4 with 1 N HCl solution. Extraction of the organic layers with ethyl acetate was followed by evaporation of the solvents to yield 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-carboxyquinoline (39 mg); NMR (CD3OD) 1.25 (t, 3), 1.99 (m, 1), 2.2 (m, 1), 2.5 (m, 2), 3.4-3.9 (m, 8), 4.16 (q, 2), 5.25 (m, 1), 7.75 (m, 1), 7.86 (m, 1), 8.25 (m, 3) ppm.

reactant | 2-carboxy-4-methoxycarbonylquinoline | 0.65 mmol, 151 mg | C(=O)(O)C1=NC2=CC=CC=C2C(=C1)C(=O)OC | C12H9NO4
reactant | 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine | 181 mg, 1.05 eq. | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)N | C16H29N3O5
reactant | EDCI | 161 mg, 1.2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 75 mg, 1.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]-aminocarbonyl-4-(methoxycarbonyl)quinoline | 146 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)C1=NC2=CC=CC=C2C(=C1C(=O)N)C(=O)OC | C28H36N4O8
